US08314112B2
Step A: Pyridine-2-carboximidic acid methyl ester
Pyridine-2-carbonitrile (Sigma-Aldrich, St. Louis, USA) (1 eq, 190 mmol, 20 g) is dissolved in MeOH (150 ml), then NaOMe (5.4 M in MeOH, 1.1 eq, 209 mmol, 38.7 ml) is added. The resulting mixture is stirred for 16 h at r.t. The solvents are removed in vacuo, then water is added, and the resulting aqueous mixture is extracted with DCM. The organic layer is dried with MgSO4, filtered, and the solvent is removed in vacuo yielding the title compound; [M+H]+=138.

reactant | Pyridine-2-carbonitrile | 190 mmol, 20 g, 1 eq | N1=C(C=CC=C1)C#N | C6H4N2
reactant | NaOMe | 209 mmol, 5.4 M, 38.7 ml, 1.1 eq | C[O-].[Na+]
solvent | MeOH | 150 ml | CO | CH4O
product | Pyridine-2-carboximidic acid methyl ester | COC(=N)C1=NC=CC=C1 | C7H8N2O
